US04351939
A mixture of 1-(2-pyrimidinyl)piperazine (32.8 g., 0.2 mole), 1,4-dichlorobutane (76.2 g., 0.6 mole) and finely powdered sodium carbonate (44.5 g., 0.42 mole) in 300 ml. of acetonitrile is stirred and refluxed for a 12-hour period. The hot reaction mixture is filtered and the filter cake washed with 50-100 ml. of hot acetonitrile. Combined filtrates are maintained at room temperature until crystallization occurs, then cooled, filtered, and collected material washed with acetone to provide a 70-90% yield of 8-(2-pyrimidinyl)-8-aza-5-azoniaspiro[4.5]decane chloride. This material is hygroscopic and after drying under vacuum at room temperature affords the monohydrate from melting about 90° C. which on continued drying under vacuum at 90° C. for several hours affords the anhydrous product having a melting point of about 210° C.

reactant | 1-(2-pyrimidinyl)piperazine | 0.2 mole, 32.8 g | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | 1,4-dichlorobutane | 0.6 mole, 76.2 g | ClCCCCCl | C4H8Cl2
reactant | sodium carbonate | 0.42 mole, 44.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 8-(2-pyrimidinyl)-8-aza-5-azoniaspiro[4.5]decane chloride | 70-90% yield | [Cl-].N1=C(N=CC=C1)N1CC[N+]2(CCCC2)CC1 | InChI=1S/C12H19N4.ClH/c1-2-9-16(8-1)10-6-15(7-11-16)12-13-4-3-5-14-12;/h3-5H,1-2,6-11H2;1H/q+1;/p-1
